US05498777
Step 1 2-Chloro-3-nitro-6-picoline-N-oxide
2-Chloro-3-nitro-6-picoline (2 g, 11.6 mmol) was added to an ice cooled mixture of trifluoroacetic acid (6 mL) and 30% peracetic acid in acetic acid (6 mL). The mixture was allowed to warm to room temperature over 30 minutes and was heated in a 60° C. oil bath for 5 hours. The mixture was partitioned between methylene chloride (100 mL) and water (50 mL). The pH was adjusted to 8 with 2.5 N sodium hydroxide and the aqueous layer was extracted with more methylene chloride (2×50 mL). The combined methylene chloride layers were dried with magnesium sulfate, filtered and evaporated to give the title compound as a white solid (1.6g).

reactant | 2-Chloro-3-nitro-6-picoline | 11.6 mmol, 2 g | ClC1=NC(=CC=C1[N+](=O)[O-])C | C6H5ClN2O2
reactant | trifluoroacetic acid | 6 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | peracetic acid | C(C)(=O)OO | C2H4O3
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
product | 2-Chloro-3-nitro-6-picoline-N-oxide | 1.6g | ClC1=[N+](C(=CC=C1[N+](=O)[O-])C)[O-] | C6H5ClN2O3
